US08071807B2
Synthesis of {3-[4-(2,2-Dimethyl-propionylamino)-2-(2-methyl-propane-2-sulfinylmethyl)-phenoxy]-4-hydroxy-phenyl}-acetic acid (Compound 76)
Prepared according to the procedure described in Example 2 using {3-[2-tert-butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-hydroxy-phenyl}-acetic acid and 3-chloroperbenzoic acid (1 equivalent).

reactant | {3-[2-tert-butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-hydroxy-phenyl}-acetic acid | C(C)(C)(C)SCC1=C(OC=2C=C(C=CC2O)CC(=O)O)C=CC(=C1)NC(C(C)(C)C)=O | C24H31NO5S
reactant | 3-chloroperbenzoic acid | 1 equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | {3-[4-(2,2-Dimethyl-propionylamino)-2-(2-methyl-propane-2-sulfinylmethyl)-phenoxy]-4-hydroxy-phenyl}-acetic acid | CC(C(=O)NC1=CC(=C(OC=2C=C(C=CC2O)CC(=O)O)C=C1)CS(=O)C(C)(C)C)(C)C | C24H31NO6S
